* PEX produced on Di 15. Sep 13:33:31 CEST 2026 using scripts/sak-pex.sh with m=3 and s=1 (extresist threshold=10000 mOhm, minres=1000 mOhm, mindelay=1 ps)
* NGSPICE file created from hv_nor4_pex.ext - technology: ihp-sg13cmos5l

.subckt hv_nor4_pex VDD in1 out in2 VSS in3 in4
X0 VDD in4 a_1858_276# VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X1 VSS.t7 in2 out VSS.t14 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X2 a_758_276# in2 a_n342_276# VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X3 a_758_276# in3 a_1858_276# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X4 VSS.t13 in1 out VSS.t18 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X5 a_758_276# in3 a_1858_276# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X6 out in2 VSS.t7 VSS.t15 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X7 out in1 a_n342_276# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X8 VSS.t9 in3 out VSS.t11 sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
X9 a_n342_276# in1 out VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X10 VSS.t13 in1 out VSS.t20 sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
X11 a_n342_276# in2 a_758_276# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X12 a_1858_276# in3 a_758_276# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X13 a_1858_276# in4 VDD VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X14 out in2 VSS.t13 VSS.t12 sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X15 VSS.t1 in4 out VSS.t2 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X16 out in1 a_n342_276# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X17 out in4 VSS.t1 VSS.t3 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X18 out in1 VSS.t13 VSS.t19 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X19 a_1858_276# in3 a_758_276# VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X20 a_1858_276# in4 VDD VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X21 VSS.t7 in2 out VSS.t16 sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
X22 a_n342_276# in2 a_758_276# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X23 out in3 VSS.t7 VSS.t6 sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X24 VSS.t9 in3 out VSS.t8 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X25 out in4 VSS.t1 VSS.t0 sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X26 out in1 VSS VSS.t17 sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X27 a_758_276# in2 a_n342_276# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X28 VDD in4 a_1858_276# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X29 out in3 VSS.t9 VSS.t10 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X30 a_n342_276# in1 out VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X31 VSS.t5 in4 out VSS.t4 sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
R0 VSS.n17 VSS.t18 289.19
R1 VSS.n18 VSS.t14 289.19
R2 VSS.n19 VSS.t8 289.19
R3 VSS.n34 VSS.t2 289.19
R4 VSS.t19 VSS.n17 159.459
R5 VSS.t15 VSS.n18 159.459
R6 VSS.t10 VSS.n19 159.459
R7 VSS.t3 VSS.n34 159.459
R8 VSS.n11 VSS.t16 43.8372
R9 VSS.n9 VSS.t20 43.837
R10 VSS.t12 VSS.n8 43.8369
R11 VSS.n12 VSS.n4 0.0116659
R12 VSS.n4 VSS.n10 0.0116658
R13 VSS.t11 VSS.n10 43.8369
R14 VSS.t14 VSS.n8 32.4564
R15 VSS.n12 VSS.t6 43.8369
R16 VSS.n30 VSS.t0 56.7573
R17 VSS.t4 VSS.n38 56.7573
R18 VSS.t18 VSS.t17 32.4564
R19 VSS.n9 VSS.t19 32.4562
R20 VSS.n11 VSS.t15 32.4562
R21 VSS.n10 VSS.t10 32.4562
R22 VSS.n32 VSS.n31 28.6935
R23 VSS.n37 VSS.n36 28.6935
R24 VSS.t2 VSS.n33 24.3248
R25 VSS.n35 VSS.t3 24.3248
R26 VSS.n33 VSS.n4 17.0005
R27 VSS.n34 VSS.n4 8.50075
R28 VSS.n38 VSS.n4 17.0005
R29 VSS.n5 VSS.n4 0.776764
R30 VSS.n6 VSS.t9 0.179536
R31 VSS.n0 VSS.n30 17.0005
R32 VSS.n0 VSS.n35 17.0005
R33 VSS.n0 VSS.t4 135.167
R34 VSS.n33 VSS.n32 14.347
R35 VSS.n38 VSS.n37 14.347
R36 VSS.n31 VSS.n30 14.347
R37 VSS.n36 VSS.n35 14.347
R38 VSS.n18 VSS.n4 8.5005
R39 VSS.n17 VSS.n4 8.5005
R40 VSS.n19 VSS.n4 8.5005
R41 VSS.n20 VSS.n0 8.48933
R42 VSS.n0 VSS.n22 8.48933
R43 VSS.n0 VSS.n24 8.48933
R44 VSS.n23 VSS.n4 8.48933
R45 VSS.n21 VSS.n4 8.48933
R46 VSS.n0 VSS.n7 0.343999
R47 VSS.n7 VSS.t5 1.22573
R48 VSS.n6 VSS.n4 1.25526
R49 VSS.n31 VSS.n4 1.328
R50 VSS.n36 VSS.n4 1.328
R51 VSS.n0 VSS.n32 1.328
R52 VSS.n0 VSS.n37 1.328
R53 VSS.n25 VSS.n3 1.2301
R54 VSS VSS.n3 1.04205
R55 VSS.n28 VSS.n4 0.955472
R56 VSS.t1 VSS.n5 0.2971
R57 VSS.n2 VSS.n4 0.887721
R58 VSS.n26 VSS.n4 0.865147
R59 VSS.n7 VSS.n29 1.19398
R60 VSS.n28 VSS.n27 0.829451
R61 VSS.n14 VSS.n4 0.776213
R62 VSS.n16 VSS.n4 0.776152
R63 VSS.n26 VSS.n25 0.752086
R64 VSS.n27 VSS.n26 0.744814
R65 VSS.n29 VSS.n28 0.702849
R66 VSS.n13 VSS.n4 0.653066
R67 VSS.n15 VSS.n4 0.652425
R68 VSS.t13 VSS.n14 0.329799
R69 VSS.t7 VSS.n16 0.329775
R70 VSS.n14 VSS.t7 0.327405
R71 VSS.n16 VSS.t9 0.327394
R72 VSS.t5 VSS.n5 0.296828
R73 VSS.n2 VSS.t13 0.296306
R74 VSS.t13 VSS.n13 0.292804
R75 VSS.n4 VSS.n3 0.291572
R76 VSS.t7 VSS.n15 0.291467
R77 VSS.n27 VSS.n15 0.268332
R78 VSS.n25 VSS.n13 0.26711
R79 VSS.n21 VSS.n20 0.0481858
R80 VSS.n22 VSS.n21 0.0481858
R81 VSS.n23 VSS.n22 0.0481858
R82 VSS.n24 VSS.n23 0.0481858
R83 VSS.t9 VSS.t1 0.0321092
R84 VSS.n29 VSS.n24 0.0243429
R85 VSS.n20 VSS.n6 0.188405
R86 VSS.n8 VSS.n4 0.0116659
R87 VSS.n9 VSS.n4 0.0116659
R88 VSS.t8 VSS.n12 32.4564
R89 VSS VSS.n2 0.340021
R90 VSS.n11 VSS.n4 0.0116659
R91 VSS.t17 VSS.n4 0.0116659
R92 VSS.n0 VSS.n1 0.00387577
R93 VSS.n1 VSS.n4 0.00407022
R94 VSS.t0 VSS.n1 135.169
C0 in3 out 2.69232f
C1 a_758_276# a_1858_276# 9.42401f
C2 in3 VDD 2.55073f
C3 in1 in2 0.15995f
C4 a_758_276# a_n342_276# 9.54026f
C5 a_758_276# in3 1.61145f
C6 in4 a_1858_276# 1.07497f
C7 out VDD 1.3381f
C8 in3 in4 0.16135f
C9 in1 a_n342_276# 1.97498f
C10 in2 a_n342_276# 1.07898f
C11 a_758_276# out 0.09582f
C12 a_758_276# VDD 2.73471f
C13 in3 in2 0.16135f
C14 a_1858_276# a_n342_276# 0.09208f
C15 in4 out 2.03721f
C16 in4 VDD 4.48244f
C17 in3 a_1858_276# 1.30611f
C18 in1 out 3.30809f
C19 in1 VDD 2.59949f
C20 in2 out 2.69583f
C21 in2 VDD 2.53807f
C22 a_758_276# in2 1.95435f
C23 a_1858_276# out 0.04208f
C24 a_1858_276# VDD 12.1739f
C25 out a_n342_276# 8.56124f
C26 a_n342_276# VDD 2.83397f
C27 out VSS 8.91508f
C28 VDD VSS 4.39837f
C29 a_1858_276# VSS 2.81638f
C30 a_758_276# VSS 1.30812f
C31 a_n342_276# VSS 0.74432f
C32 VSS.t13 VSS 1.28314f
C33 VSS.t7 VSS 1.2205f
.ends

